US05968923
3-Morpholinoazetidine dihydrochloride
A mixture of 1-diphenylmethyl-3-morpholinoazetidine (see Preparation 55) (18.6 g, 60.4 mmol), palladium hydroxide (2 g), ethanol (200 ml) and 1 N aqueous hydrochloric acid solution (52 ml) was stirred under an atmosphere of hydrogen at 345 kPa (50 p.s.i.) for three days. The catalyst was then removed by filtration and the filtrate evaporated to dryness. Addition of dichloromethane (100 ml) to the residue and trituration yielded a solid which was recrystallised from methanol to give the title compound (10.2 g) as a crystalline solid. LRMS m/z=179(m+1)+. (N.B. The monohydrochloride, used instead of the dihydrochloride in some reactions, can be similarly prepared using one molar equivalent of hydrogen chloride.

reactant | 1-diphenylmethyl-3-morpholinoazetidine | 60.4 mmol, 18.6 g | C1(=CC=CC=C1)C(N1CC(C1)N1CCOCC1)C1=CC=CC=C1 | C20H24N2O
reactant | hydrochloric acid | 1 N, 52 ml | Cl | ClH
catalyst | palladium hydroxide | 2 g | [OH-].[Pd+2].[OH-]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-Morpholinoazetidine dihydrochloride | 10.2 g | Cl.Cl.O1CCN(CC1)C1CNC1 | InChI=1S/C7H14N2O.2ClH/c1-3-10-4-2-9(1)7-5-8-6-7;;/h7-8H,1-6H2;2*1H
